US07737167B2
(R)-N-(5,6-Dimethylbenzimidazol-2-yl)-1,2,3,4-tetrahydro-1-naphthylamine
The title compound was prepared from 4,5-dimethylphenylenediamine and (R)-l-isothiocyanato-1,2,3,4-tetrahydronaphthalene by Procedure D. The title compound was isolated by column chromatography as the free base (solid, mp 121-124° C.). MS(ES+) m/z 292 ([M+1]+, 100).

reactant | 4,5-dimethylphenylenediamine | CC1=CC(=C(C=C1C)N)N | C8H12N2
reactant | (R)-l-isothiocyanato-1,2,3,4-tetrahydronaphthalene | N(=C=S)[C@@H]1CCCC2=CC=CC=C12 | C11H11NS
product | (R)-N-(5,6-Dimethylbenzimidazol-2-yl)-1,2,3,4-tetrahydro-1-naphthylamine | CC1=CC2=C(N=C(N2)N[C@@H]2CCCC3=CC=CC=C23)C=C1C | C19H21N3
